US07538104B2
49.85 g (0.38 mol) of 3-[1,3]-dioxolan-2-yl-propylamine and 43.34 g (0.646 mol) of crotononitrile are combined in a 200 ml round-bottomed flask and heated at 100° C. for 72 hours. After cooling, the brown mass is diluted with ethyl acetate and washed with water. The organic phase is dried over calcium carbonate and purified by filtration on silica gel (eluent: ethyl acetate). Evaporation of the solvent gives 69.8 g of 3-(3-[1,3]-dioxolan-2-ylpropylamino)butyronitrile as a reddish liquid which is used without further purification in the next stage.

reactant | 3-[1,3]-dioxolan-2-yl-propylamine | 0.38 mol, 49.85 g | O1C(OCC1)CCCN | C6H13NO2
reactant | crotononitrile | 0.646 mol, 43.34 g | C(\C=C\C)#N | C4H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3-[1,3]-dioxolan-2-ylpropylamino)butyronitrile | 69.8 g | O1C(OCC1)CCCNC(CC#N)C | C10H18N2O2
